US08309546B2
(2S)-1-{4-[2-(2-Aminopyrimidin-5-yl)-6-morpholin-4-yl-9-(2,2,2-trifluoroethyl)-9H-purin-8-yl]piperazin-1-yl}-1-oxopropan-2-ol
L-Lactic acid (17 mg, 0.19 mmol), hydroxybenzotriazole hydrate (37 mg, 0.19 mmol), 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride (37 mg, 0.19 mmol), dimethylformamide (3 ml), and triethylamine (100 μl) were added to 5-[6-morpholin-4-yl-8-piperazin-1-yl-9-(2,2,2-trifluoroethyl)-9H-purin-2-yl]pyrimidin-2-amine trifluoroacetate (120 mg, 0.17 mmol) and the resulting mixture was stirred for 5 hours. The reaction mixture was partitioned with ethyl acetate and water, the organic layer was washed with saturated aqueous sodium bicarbonate solution and dried over magnesium sulfate, and then the solvent was evaporated under reduced pressure. The residue was purified by silica gel chromatography (chloroform:methanol=19:1) to give the title compound as a colorless solid.

reactant | L-Lactic acid | 0.19 mmol, 17 mg | C([C@@H](O)C)(=O)O | C3H6O3
reactant | hydroxybenzotriazole hydrate | 0.19 mmol, 37 mg | O.OC1=CC=CC=2NN=NC21
reactant | 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride | 0.19 mmol, 37 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 5-[6-morpholin-4-yl-8-piperazin-1-yl-9-(2,2,2-trifluoroethyl)-9H-purin-2-yl]pyrimidin-2-amine trifluoroacetate | 0.17 mmol, 120 mg | FC(C(=O)O)(F)F.N1(CCOCC1)C1=C2N=C(N(C2=NC(=N1)C=1C=NC(=NC1)N)CC(F)(F)F)N1CCNCC1
solvent | triethylamine | 100 μl | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | (2S)-1-{4-[2-(2-Aminopyrimidin-5-yl)-6-morpholin-4-yl-9-(2,2,2-trifluoroethyl)-9H-purin-8-yl]piperazin-1-yl}-1-oxopropan-2-ol | NC1=NC=C(C=N1)C1=NC(=C2N=C(N(C2=N1)CC(F)(F)F)N1CCN(CC1)C([C@H](C)O)=O)N1CCOCC1 | C22H27F3N10O3
